US08242133B2
A mixture of 0.28 g of 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole, 0.55 g of potassium carbonate, 0.14 g of methylamine hydrochloride, and 3 ml of DMF was stirred while heating at 60° C. for three hours. To the mixture, 0.55 g of potassium carbonate and 0.14 g of methylamine hydrochloride were added, and the reaction mixture was stirred while heating for further two hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and resultant crystals were washed with diethyl ether to give 0.13 g of methyl-[4-(5-trifluoromethylbenzoxazole-2-yl)pyridin-3-yl]amine (hereinafter, referred to as “active compound 83”).

reactant | 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.28 g | FC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F4N2O
reactant | potassium carbonate | 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | methylamine hydrochloride | 0.14 g | Cl.CN
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | methylamine hydrochloride | 0.14 g | Cl.CN
solvent | Water | O | H2O
product | methyl-[4-(5-trifluoromethylbenzoxazole-2-yl)pyridin-3-yl]amine | 0.13 g | CNC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C14H10F3N3O
